Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Cipro / ciprofloxacin / fluconazole
 
Attending: ___.
 
Chief Complaint:
Pancreatic necrosis
 
Major Surgical or Invasive Procedure:
___ - Pancreatic washout and upsizing of pancreatic drain

 
History of Present Illness:
___ with pancreatitis c/b necrosis and pseudocyst s/p multiple 
drainage procedures and drain placements. Currently has ___ Fr 
drain in draining thick pancreatic necrotic debris. Concern is 
that the drain is too small to handle such thick output and 
should be upsized.
 
Past Medical History:
Per ___ and ___ discharge summary ___.
Hypertension.
Hypercholesterolemia.
Diabetes ___ pancreatitis.
Metabolic toxic encephalopathy
Depression.
Diverticulitis s/p sigmoid resection and end colostomy unable to 
be reversed b/c severe scarring and fibrosis.
Anemia of chronic disease.
Breast Ca s/p bl mastectomy and chemotherapy ___ years ago.
ETOH abuse.
Bowel obstruction.
Pancreatic pseudocyst.
s/p appendectomy for ruptured appendix.
s/p laparoscopy - pelvic pain r/o endomitriosis

 
Social History:
___
Family History:
Cancer
 
Physical Exam:
On discharge:

afebrile at 99.2, ___ 121/62 18 99% on RA

NAD, A+OX3
no scleral icterus
RRR
CTAB
Soft, TTP around drain site, ND, ostomy appears normal and 
functioning
Right pancreatic drain site draining pancreatic debris. Drain is 
put in ostomy bag to collect debris. 
1+ pitting edema b/l
Right thigh has some minimal redness, no fluctuance, no 
induration
 
Pertinent Results:
___ 06:00AM BLOOD WBC-17.6* RBC-2.92* Hgb-7.5* Hct-24.5* 
MCV-84 MCH-25.5* MCHC-30.4* RDW-15.9* Plt ___
___ 08:15AM BLOOD WBC-27.7*# RBC-3.32* Hgb-8.9* Hct-28.7* 
MCV-86 MCH-26.8* MCHC-31.0 RDW-15.8* Plt ___
___ 07:30AM BLOOD WBC-19.0* RBC-2.97* Hgb-7.9* Hct-25.2* 
MCV-85 MCH-26.7* MCHC-31.5 RDW-16.0* Plt ___

___ 06:00AM BLOOD ___ PTT-27.8 ___

___ 07:30AM BLOOD Glucose-185* UreaN-5* Creat-0.6 Na-135 
K-3.9 Cl-99 HCO3-27 AnGap-13

___ 06:00AM BLOOD ALT-13 AST-12 LD(LDH)-109 AlkPhos-152* 
Amylase-17 TotBili-0.2

___ 06:00AM BLOOD Lipase-18

___ 11:00 am ABSCESS
      RETROPERITONEAL FLUID FROM PANCREATIC ABSCESS. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    SPARSE 
GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   FUNGAL CULTURE (Preliminary): 
      ___ ALBICANS. 

___ blood cultures are pending as of this discharge summary
 
Brief Hospital Course:
Mrs. ___ was admitted and underwent drain upsizing and 
pancreatic washout on ___. She did well afterwards with 
excellent pain control on oral medications. Her post-operative 
course was uncomplicated. She was pancultured for a low grade 
temperature. CXR was normal. UA was negative. Her OR cultures 
grew back ___ and she was started on Micafungin. A PICC line 
was placed for long term antibiotics. At the time of discharge 
she is afebrile.

She was started on clears and advanced to fulls while 
supplementing her nutrition with tube feeds at goal. She has 
taken enough fulls and her tube feeds were stopped. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nicotine Patch 14 mg TD DAILY 
2. Tamoxifen Citrate 20 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Duloxetine 60 mg PO DAILY 
5. Gabapentin 300 mg PO TID 
6. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
7. Morphine SR (MS ___ 15 mg PO Q8H 
8. Pantoprazole 40 mg PO Q12H 
9. Gemfibrozil 600 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Duloxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Gemfibrozil 600 mg PO BID 
5. Tamoxifen Citrate 20 mg PO DAILY 
6. Nicotine Patch 14 mg TD DAILY 
7. Morphine SR (MS ___ 15 mg PO Q8H 
8. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
9. Multivitamins 1 TAB PO DAILY 
10. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
11. Micafungin 100 mg IV Q24H 
12. Pantoprazole 40 mg PO Q12H 
13. Heparin 5000 UNIT SC TID 
to be administered if patient is non-ambulatory 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pancreatitis, pancreatic pseudocyst, pancreatic necrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for debridement and upsizing of your 
pancreatic drain. You have done well and are now safe to return 
in Nursing Home to complete your recovery with the following 
instructions:
.
Please call Dr. ___ office at ___ if you have 
questions or concerns.
.
Please resume all regular home medications , unless specifically 

advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Pancreatic drain care: 
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
* The pancreatic drain is placed in an ostomy bag and left to 
drain via gravity. The nurses ___ flush the drain (20 cc of NS 
q8hours) and fluid will drain from the tube and around the 
incision. This is normal and indicates that the drain is working 
by keeping the pancreatic tract open. 
* Call the doctor, ___, or ___ nurse if the 
amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently.  Record the output, if instructed to 

do so.
*Wash the area gently with warm, soapy water or ___ strength 
hydrogen peroxide followed by saline rinse, pat dry, and place a 

drain sponge. Change daily and as needed.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
.
Ostomy care: Please continue current care.

 
Followup Instructions:
___